US03950528
3-Amino-1-(3-ethylbenzyl)-pyrazol-5-one ##SPC47##
14.2 g of 3-ethylbenzylhydrazine were added dropwise to a solution of 15.1 g of β-amino-β-ethoxyacrylic acid ethyl ester and a pinch of p-toluenesulphonic acid in 80 ml of ethanol, in the course of which the temperature rose from 22°to 30°. After stirring overnight, the solvent was distilled off in vacuo and the solid residue was recrystallised from ethanol. The product was the compound identified above. Melting point: 73°, 5 g (24%).

reactant | 3-ethylbenzylhydrazine | 14.2 g | C(C)C=1C=C(CNN)C=CC1 | C9H14N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 15.1 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-ethylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=CC=C1)CC | C12H15N3O
